US04609753
Preparation of 3-[N-{2-nitro-5-(2-chloro-4-isopropylsulphonylphenoxy)phenyl}amino]butyronitrile (43).
A solution of 4.0 g of 2-chloro-4-isopropylsulphonyl-(3,4-dinitrophenoxy)benzene and 2,5 g of 3-aminobutyronitrile in 30 ml of acetonitrile was refluxed for 13 hours. After evaporation the residue was recrystallized from methanol. The desired product was obtained in a yield of 3.3 g; m.p. 132° C.

reactant | 2-chloro-4-isopropylsulphonyl-(3,4-dinitrophenoxy)benzene | 4.0 g | ClC1=C(C=CC(=C1)S(=O)(=O)C(C)C)OC1=CC(=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C15H13ClN2O7S
reactant | 3-aminobutyronitrile | 2,5 g | NC(CC#N)C | C4H8N2
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 3-[N-{2-nitro-5-(2-chloro-4-isopropylsulphonylphenoxy)phenyl}amino]butyronitrile | [N+](=O)([O-])C1=C(C=C(C=C1)OC1=C(C=C(C=C1)S(=O)(=O)C(C)C)Cl)NC(CC#N)C | C19H20ClN3O5S
